US04021441
In the manner given in Example 32, 1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine, potassium iodide, and methylallylamine in tetrahydrofuran are reacted to give 1-[(allylmethylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1 | C17H12Cl2N4
reactant | potassium iodide | [I-].[K+]
reactant | methylallylamine | CC=CCN | C4H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[(allylmethylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C=C)CNCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1 | C21H20ClN5
